US07268230B2
1-(2-Fluoroethyl)piperazine diTFA salt (464 mg, 1.29 mmol), (prepared as described for the starting material in Example 27), was dissolved in acetonitrile (3.5 ml). Potassium carbonate (889 mg, 6.44 mmol) and 2-bromoethanol (95 μl, 1.34 mmol) were added and the mixture heated to 85° C. and left overnight. More bromoethanol (95 μl, 1.34 mmol) was added and the reaction mixture heated at 85° C. for a further 2 hours. The reaction mixture was cooled, filtered and concentrated. The residue was purified by column chromatography eluting with methylene chloride/methanol (saturated with ammonia) (92/8) to give 2-[4-(2-fluoroethyl)piperazin-1-yl]ethanol (151 mg, 66%).

reactant | 1-(2-Fluoroethyl)piperazine diTFA salt | 1.29 mmol, 464 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.FCCN1CCNCC1
reactant | Potassium carbonate | 6.44 mmol, 889 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 1.34 mmol, 95 μl | BrCCO | C2H5BrO
reactant | bromoethanol | 1.34 mmol, 95 μl | BrC(C)O | C2H5BrO
solvent | acetonitrile | 3.5 ml | C(C)#N | C2H3N
product | 2-[4-(2-fluoroethyl)piperazin-1-yl]ethanol | 151 mg, 66% | FCCN1CCN(CC1)CCO | C8H17FN2O
